US07888362B2
By a similar method as in Example 1, 1-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-1H-quinolin-2-one was prepared from 1-(4-chlorobutyl)-3,4-dihydro-1H-quinolin-2-one, and after it was made into an ethanol solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration and thereby 1-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-1H-quinolin-2-one hydrochloride was obtained in the form of a white powder.

reactant | 1-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(CCC1=CC=CC=C21)=O | C25H29N3OS
reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-quinolin-2-one | ClCCCCN1C(CCC2=CC=CC=C12)=O | C13H16ClNO
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-1H-quinolin-2-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(CCC1=CC=CC=C21)=O | InChI=1S/C25H29N3OS.ClH/c29-25-11-10-20-6-1-2-7-22(20)28(25)14-4-3-13-26-15-17-27(18-16-26)23-8-5-9-24-21(23)12-19-30-24;/h1-2,5-9,12,19H,3-4,10-11,13-18H2;1H
